US07615556B2
To a solution of 1-(4-chlorophenyl)-2,2-dimethylpiperazine (0.76 g, 3.38 mmol) in DMF (10 mL), was added (R)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (0.735 g, 3.38 mmol), BOP (1.496 g, 3.38 mmol) and DIPEA (0.588 mL, 3.38 mmol). The mixture was stirred at rt for 2 h, quenched with aq. NaHCO3, extracted with EtOAc, and washed with brine. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by a flash column chromatography using 30% EtOAc in hexanes as an eluent. The product containing fractions were concentrated and dried to give (R)-tert-butyl 1-(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (1.36 g, 3.21 mmol, 95% yield) as a yellow oil. To (R)-tert-butyl 1-(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate was added 4N HCL in dioxane and the resulting mixture stirred at room temperature until the starting material had been consumed. The volatile solvents were removed and the product dried to give (R)-2-Amino-1-(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)-3-methylbutan-1-one hydrochloride as a white solid.

reactant | (R)-tert-butyl 1-(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | ClC1=CC=C(C=C1)N1C(CN(CC1)C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)(C)C | C22H34ClN3O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-1-(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)-3-methylbutan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CC(N(CC1)C1=CC=C(C=C1)Cl)(C)C)C(C)C | InChI=1S/C17H26ClN3O.ClH/c1-12(2)15(19)16(22)20-9-10-21(17(3,4)11-20)14-7-5-13(18)6-8-14;/h5-8,12,15H,9-11,19H2,1-4H3;1H/t15-;/m1./s1
